US05981572
3-(7-Chloro-benzofuran-4-yl)-propionic acid ethyl ester
A mixture of 2-(7-chloro-benzofuran-4-ylmethyl)-malonic acid diethyl ester (2.47 g) and sodium chloride (0.656 g) in DMSO (12 ml) and water (0.5 ml) was heated at 200° for 4 h under nitrogen. The cooled mixture was partitioned between water (80 ml) and ether (3×50 ml) and the combined organic extracts washed with brine (3×50 ml) and dried (MgSO4). The solvent was evaporated to give the title compound as a brown oil (1.28 g)

reactant | 2-(7-chloro-benzofuran-4-ylmethyl)-malonic acid diethyl ester | 2.47 g | C(C)OC(C(C(=O)OCC)CC1=CC=C(C2=C1C=CO2)Cl)=O | C16H17ClO5
reactant | sodium chloride | 0.656 g | [Cl-].[Na+]
solvent | DMSO | 12 ml | CS(=O)C | C2H6OS
solvent | water | 0.5 ml | O | H2O
product | 3-(7-Chloro-benzofuran-4-yl)-propionic acid ethyl ester | 1.28 g | C(C)OC(CCC1=CC=C(C2=C1C=CO2)Cl)=O | C13H13ClO3
